US07253286B2
1-(4-{6-[4-(2-Diethylaminoethoxy)-phenyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy}phenyl)-3-(3-fluorophenyl)urea
After dissolving 114 mg of 1-(3-fluorophenyl)-3-{4-[6-(4-hydroxyphenyl)-7H-pyrrolo [2,3-d]pyrimidin-4-yloxy]phenyl}urea in 2 ml of dimethylformamide, there were added 44 mg (ca. 1 equivalent) of 2-chloroethyldiethylamine hydrochloride and 63 mg (2.5 equivalents) of potassium bicarbonate, and the mixture was stirred at 50–60° C. for 16 hours. There were then added 17 mg of 2-chloroethyldiethylamine hydrochloride, 20 mg of potassium bicarbonate and 1 ml of dimethylformamide, and the mixture was stirred overnight at the same temperature. It was then returned to room temperature, water was added, and liquid separation and extraction were performed with ethyl acetate-tetrahydrofuran. The organic layer was washed with water and saturated brine, concentrated and subjected to NH silica gel column chromatography (hexane-ethyl acetate) to obtain 33 mg of a crude solid containing the title compound. This was washed with ethyl acetate to obtain 5 mg of the title compound.

reactant | 1-(3-fluorophenyl)-3-{4-[6-(4-hydroxyphenyl)-7H-pyrrolo [2,3-d]pyrimidin-4-yloxy]phenyl}urea | 114 mg | FC=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)OC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)O | C25H18FN5O3
reactant | 2-chloroethyldiethylamine hydrochloride | 44 mg, ca. 1 equivalent | Cl.ClCCN(CC)CC
reactant | potassium bicarbonate | 63 mg, 2.5 equivalents | C([O-])(O)=O.[K+]
reactant | 2-chloroethyldiethylamine hydrochloride | 17 mg | Cl.ClCCN(CC)CC
reactant | potassium bicarbonate | 20 mg | C([O-])(O)=O.[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-(4-{6-[4-(2-Diethylaminoethoxy)-phenyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy}phenyl)-3-(3-fluorophenyl)urea | C(C)N(CCOC1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)F)N1)CC | C31H31FN6O3
